US03998831
Preparation of 2-Methyl-7,8-dihydro-5(6H)-quinolone
A mixture of 3-aminocyclohex-2-enone (22 g., 0.2 mol.) and 4-methoxybut-3-en-2-one (20.0 g., 0.2 mol), in an apparatus equipped for downward distillation, was heated in an oil bath at 120° C until the theoretical amount of distillate had been collected (13 ml.). The cooled residue was dissolved in 2N HCl (50 ml.) and extracted with ethyl acetate (3 × 50 ml.) and the combined extracts discarded. The aqueous solution was adjusted to pH 9.0 with sodium carbonate and extracted with chloroform (3 × 50 ml.). The combined extracts were dried (MgSO4) and the solvent removed in vacuo and the residual oil distilled to give the title compound (22.5 g., 72%) b.p. 72°-6°/0.1 mm Hg. The free base was dissolved in ether and treated with an excess of ethereal hydrogen chloride. The resultant solid was isolated and recrystallised from isopropanol to give the hydrochloride of the title compound as colourless needles m.p. 225° C. (Found: C, 60.9; H, 6.3; N, 6.99. C10H11NO.HCl requires: C, 60.7; H, 6.1; N, 7.1%).

reactant | 3-aminocyclohex-2-enone | 0.2 mol, 22 g | NC1=CC(CCC1)=O | C6H9NO
reactant | 4-methoxybut-3-en-2-one | 0.2 mol, 20.0 g | COC=CC(C)=O | C5H8O2
product | 2-Methyl-7,8-dihydro-5(6H)-quinolone | 22.5 g, 72% | CC1=NC=2CCCC(C2C=C1)=O | C10H11NO
